US08258160B2
Synthesis of N-benzyl-2-(4-(4-fluorophenyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with 1-ethynyl-4-fluorobenzene to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 8% yield: mp 203-205° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.77-8.75 (m, 1H), 8.36-8.31 (m, 1H), 7.41-7.16 (m, 8H), 6.10 (br s, 1H), 4.64 (d, J=6.0 Hz, 2H), 2.72 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.13, 153.3, 142.3, 137.4, 130.3, 130.2, 129.0, 128.9, 128.2, 128.1, 127.9, 127.9, 124.8, 124.7, 119.8, 119.7, 116.1, 115.8, 44.4, 17.5; MS (ES+) m/z 394.3 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 1-ethynyl-4-fluorobenzene | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-2-(4-(4-fluorophenyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide | 8% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C1=CC=C(C=C1)F)C | C20H16FN5OS
